US04170684
A polyester is produced from 364 g of dimethyl terephthalate, 112 of ethylene glycol and 75 of glycerin and further worked up as described in Example 1, with the exception that instead of 137 g of the diimidodicarboxylic acid (of Example A) there is used 156 g of the reaction product of Example F. The obtained lacquer has a solid body content of 26% and a viscosity of 130 seconds and is used for the lacquering of wire as described in Example 1.

reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | glycerin | OCC(O)CO | C3H8O3
product | dimethyl terephthalate | 364 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
